US04638012
A. 2-(Heptanoylamino)acetic acid
Glycine (1.5 g, 20 mmol) and heptanoyl chloride (22 mmol) were reacted in the presence of NaOH (40 mmol) in a mixture of water and ether using the method described in Example 5. The crude product was recrystallized from EtOAc (30 ml) to give title compound (2.71 g, 72%), m.p. 98°-100° C.

reactant | Glycine | 20 mmol, 1.5 g | NCC(=O)O | C2H5NO2
reactant | heptanoyl chloride | 22 mmol | C(CCCCCC)(=O)Cl | C7H13ClO
reactant | NaOH | 40 mmol | [OH-].[Na+]
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | 2-(Heptanoylamino)acetic acid | 2.71 g, 72% | C(CCCCCC)(=O)NCC(=O)O | C9H17NO3
